US07534797B2
cis-7-(3-Azetidin-1-ylmethylcyclobutyl)-5-iodo-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine
The DMF (3 mL) solution of cis-toluene-4-sulfonic acid 3-(4-amino-5-iodopyrrolo[2,3-d]pyrimidin-7-yl)-cyclobutylmethyl ester (see above for its preparation) (63 mg, 80% purity, 0.10 mmol) and azetidine (12 mg, 2 eq.) was stirred at 50° C. overnight in a sealed tube. The reaction mixture was used directly for further reaction. MS (ES+): 384.1 [MH+]. HPLC: tR=1.4 min (polar—5 min). For 1H NMR analysis, a small sample was taken out for HPLC purification. 1H NMR (DMSO-d6, 400 MHz): δ=1.99-2.06 (quintet, 2H, J=6.9 Hz), 2.08-2.22 (m, 3H), 2.49-2.53 (m, 2H), 2.54-2.56 (d, 2H, J=6.4 Hz), 3.15-3.19 (d, 4H, J=7.2 Hz), 5.01-5.10 (quintet, 2H, J=8.7 Hz), 6.69 (brs, 2H), 7.80 (s, 1H), 8.16 (s, 1H).

reactant | cis-toluene-4-sulfonic acid 3-(4-amino-5-iodopyrrolo[2,3-d]pyrimidin-7-yl)-cyclobutylmethyl ester | 0.10 mmol, 63 mg | NC=1C2=C(N=CN1)N(C=C2I)[C@H]2C[C@H](C2)COS(=O)(=O)C2=CC=C(C=C2)C | C18H19IN4O3S
reactant | azetidine | 12 mg, 2 eq. | N1CCC1 | C3H7N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | cis-7-(3-Azetidin-1-ylmethylcyclobutyl)-5-iodo-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | N1(CCC1)C[C@H]1C[C@H](C1)N1C=C(C2=C1N=CN=C2N)I | C14H18IN5
